US07015218B1
1-(4-Chlorophenyl)-N-[3,5-dichloro-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide ¼ hydrate
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.77 g) and 3,5-dichloro-4-(4-morpholinopiperidin-1-yl)aniline (1.0 g), the title compound (1.0 g) was obtained, melting point: 246–248° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.77 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 3,5-dichloro-4-(4-morpholinopiperidin-1-yl)aniline | 1.0 g | ClC=1C=C(N)C=C(C1N1CCC(CC1)N1CCOCC1)Cl | C15H21Cl2N3O
product | 1-(4-Chlorophenyl)-N-[3,5-dichloro-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 1.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C(=C1)Cl)N1CCC(CC1)N1CCOCC1)Cl | C26H28Cl3N5O2
